US20010008903A1
A mixture of the product from the previous reaction (0.25 g), potassium carbonate (2 g) and 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine (0.3 g) in a mixture of dimethylformamide (5 ml) and toluene (10 ml) was heated at reflux temperature for 8 hours. The cooled mixture was poured into water (100 ml) and extracted with ethyl ether (2×100 ml). The combined extracts were then dried over magnesium sulphate and the solvent removed under reduced pressure to yield a yellow oil. Purification by flash column chromatography on silica eluting with a 20:1 mixture of dichloromethane and methanol afforded (S)-N-(2,3-dihydro-7H-1,4-dioxino[2,3-e]indazol-2-ylmethyl)-l -[1-(2-methoxyphenyl)piperid-4-yl]methylamine (0.04 g) as a gummy solid.

reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine | 0.3 g | COC1=C(C=CC=C1)N1CCC(CC1)CN | C13H20N2O
reactant | water | 100 ml | O | H2O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(2,3-dihydro-7H-1,4-dioxino[2,3-e]indazol-2-ylmethyl)-l -[1-(2-methoxyphenyl)piperid-4-yl]methylamine | 0.04 g | O1[C@H](COC=2C1=C1C=NNC1=CC2)CNCC2CCN(CC2)C2=C(C=CC=C2)OC | C23H28N4O3
